US07666866B2
D. N4-[2-(3-tert-Butoxycarbonylaminopropoxy)-4-methoxybenzoyl]-N3-(4-methoxybenzoyl)-3,4-pyridinediamine
2-(3-tert-Butoxycarbonylaminopropoxy)-4-methoxybenzoic acid (1.6 g, 4.94 mmol) was dissolved in dry dichloromethane (20 mL) and DMF (0.5 mL) under nitrogen atmosphere. Oxalyl chloride (0.475 mL, 5.43 mmol) was added via syringe. Vigorous bubbling occurred. The mixture was stirred until gas evolution ceased, then concentrated in vacuo. The residue was dissolved in amylene-stabilized chloroform (20 mL), transferred to an addition funnel, then added dropwise over 2 hours to an ice cold solution of N3-(4-methoxybenzoyl)-3,4-pyridinediamine (1.0 g, 4.11 mmol) in amylene-stabilized chloroform (30 mL) and pyridine (2 mL, 24.7 mmol). The mixture was allowed to warm to room temperature and stir for 2.5 days. The resulting slurry was diluted with dichloromethane (50 mL) and washed twice with saturated NaHCO3, once with brine, then dried and concentrated in vacuo. Purification on a 6 mm chromatotron rotor with isocratic 96:3:1 CHCl3:MeOH:triethylamine yielded about 80% pure material that was carried on directly.

reactant | 2-(3-tert-Butoxycarbonylaminopropoxy)-4-methoxybenzoic acid | 4.94 mmol, 1.6 g | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)O)C=CC(=C1)OC | C16H23NO6
reactant | Oxalyl chloride | 5.43 mmol, 0.475 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N3-(4-methoxybenzoyl)-3,4-pyridinediamine | 4.11 mmol, 1.0 g | COC1=CC=C(C(=O)NC=2C=NC=CC2N)C=C1 | C13H13N3O2
reactant | pyridine | 24.7 mmol, 2 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | amylene | CC=C(C)C | C5H10
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N4-[2-(3-tert-Butoxycarbonylaminopropoxy)-4-methoxybenzoyl]-N3-(4-methoxybenzoyl)-3,4-pyridinediamine | about 80% | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)NC2=C(C=NC=C2)NC(C2=CC=C(C=C2)OC)=O)C=CC(=C1)OC | C29H34N4O7
